US07053089B2
Disuccinimidyl carbonate (5.03 g, 19.65 mmol) in 30 mL MeCN and 30 mL DCM was treated with 4-methylbenzyl alcohol (2.4 g, 19.6 mmol) followed by DMAP (1.20 g, 9.82 mmol). The resulting cloudy reaction mixture cleared over 2 min, stirred overnight at rt, then poured into 100 mL water and partitioned. The organic layer was dried over anhydrous sodium sulfate and the solvent evaporated. The solid thus obtained was stirred with approx. 25 mL ether, filtered, washed with a small volume of ether and dried to yield carbonic acid 2,5-dioxo-pyrrolidin-1-yl ester 4-methyl-benzyl ester as a white solid. Ref: Chem. Pharm. Bull., 38(1):110–115 (1990).

reactant | Disuccinimidyl carbonate | 19.65 mmol, 5.03 g | C(ON1C(CCC1=O)=O)(ON1C(CCC1=O)=O)=O | C9H8N2O7
reactant | 4-methylbenzyl alcohol | 19.6 mmol, 2.4 g | CC1=CC=C(CO)C=C1 | C8H10O
reactant | water | 100 mL | O | H2O
reactant | ether | approx. 25 mL | CCOCC | C4H10O
solvent | MeCN | 30 mL | CC#N | C2H3N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 9.82 mmol, 1.20 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | carbonic acid 2,5-dioxo-pyrrolidin-1-yl ester 4-methyl-benzyl ester | CC1=CC=C(COC(ON2C(CCC2=O)=O)=O)C=C1 | C13H13NO5
